US06410530B1
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-phenylthiazole-4-carboxamide
To a solution of 4-carboxy-2-phenylthiazole (88 mg, 0.43 mmol) in anhydrous N,N-dimethylformamide (25 mL) was added 1,1′-carbonyldiimidazole (73 mg, 0.45 mmol) and the reaction was heated at 75° C. When the carbon dioxide evolution had ceased (after 30 min), the reaction was cooled to room temperature and a solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (100 mg, 0.41 mmol) in anhydrous N,N-dimethylformamide (5 mL) was added. The reaction was allowed to stir at ambient temperature for 17 h and the solvent was evaporated in vacuo. Purification on a silica gel column using chloroform/ethanol saturated with NH3 (100:3) as the eluent gave 99 mg (56% yield) of the title compound as white crystals: mp 175-176° C.; [α]21D '85° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 432 (6, M+).

reactant | 4-carboxy-2-phenylthiazole | 0.43 mmol, 88 mg | C(=O)(O)C=1N=C(SC1)C1=CC=CC=C1 | C10H7NO2S
reactant | 1,1′-carbonyldiimidazole | 0.45 mmol, 73 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | carbon dioxide | C(=O)=O | CO2
reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.41 mmol, 100 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-phenylthiazole-4-carboxamide | 99 mg, 56% yield | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(=O)C=1N=C(SC1)C1=CC=CC=C1 | C25H28N4OS
